US06335346B1
NaH (1.5 eq; 60% suspension in oil) is added to a solution of 1-methylene-2-butyryl-6-methoxy-1,2,3,4-tetrahydro-β-carboline (160 mg; 0.6 mmol) in DMF (3 ml). The mixture is stirred under an oxygen atmosphere for 6 hours. The DMF is then distilled off under reduced pressure. The crude product is washed several times with ethyl acetate. After filtration and drying, 2-butyryl-7-methoxy-3-methylene-9-oxo-1,3,4,9-tetrahydropyrrolo[3,4-b]quinoline is obtained (yield=40%).

reactant | NaH | 1.5 eq | [H-].[Na+]
reactant | 1-methylene-2-butyryl-6-methoxy-1,2,3,4-tetrahydro-β-carboline | 0.6 mmol, 160 mg | C=C1N(CCC=2C3=CC(=CC=C3NC12)OC)C(CCC)=O | C17H20N2O2
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-butyryl-7-methoxy-3-methylene-9-oxo-1,3,4,9-tetrahydropyrrolo[3,4-b]quinoline | yield=40% | C(CCC)(=O)N1C(C=2NC=3C=CC(=CC3C(C2C1)=O)OC)=C | C17H18N2O3
